US06916899B2
Preparation of 4-hydroxybenzoic Acid Cyclooctyl Ester
22.82 g (0.15 mol) p-hydroxybenzoic acid methyl ester, 38.47 g (0.30 mol) cyclooctanol and 26 mg (0.1 mmol) tetraisopropyl orthotitanate are placed under argon in a round-bottom flask with distillation bridge. The mixture is stirred and heated to 180° C. within 45 minutes. The pressure is reduced to 800 mbar and over the further course of distillation to 650 mbar. After a further 15 minutes the pressure is increased to 900 mbar and the reaction mixture stirred for a further 2 hours, during which time methanol continues to be removed by distillation. A further 9.62 g (0.075 mol) cyclooctanol and 2 drops of tetraisopropyl orthotitanate are added to the reaction solution and stirred for a further 4 hours at 180° C. It is allowed to cool and the residue is dissolved in 100 ml ethyl acetate and washed repeatedly with distilled water. The organic phase is concentrated to small volume. The crude product is purified by column chromatography (silica gel 60, 0040-0.063 mm, Merck) with an n-hexane/acetone mixture (3:1). The product obtained is freed from adhering cyclooctanol under high vacuum. The white crystalline residue is recrystallised in acetone. 4.70 g (12%) of colourless crystals are obtained.

reactant | p-hydroxybenzoic acid methyl ester | 0.15 mol, 22.82 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | cyclooctanol | 0.30 mol, 38.47 g | C1(CCCCCCC1)O | C8H16O
reactant | cyclooctanol | 0.075 mol, 9.62 g | C1(CCCCCCC1)O | C8H16O
catalyst | tetraisopropyl orthotitanate | 2 drops | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetraisopropyl orthotitanate | 0.1 mmol, 26 mg | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 4-hydroxybenzoic Acid Cyclooctyl Ester | 4.70 g, 12% | C1(CCCCCCC1)OC(C1=CC=C(C=C1)O)=O | C15H20O3
